US07786132B2
(iv) 4-(5-Bromothiophen-2-yl)-2-(2-(2-oxoimidazolidin-1-yl)ethylamino)pyrimidine-5-carbonitrile
2-(2-Bromothiophene-5-carbonyl)-3-(dimethylamino)acrylonitrile) (3 g, 10 mmol) in N-methyl pyrrolidone (15 mL) was treated with 1-(2-(2-oxoimidazolidin-1-yl)ethyl)guanidine hydrochloride (1 M solution in N-methyl pyrrolidone, 15 mL, 15 mmol) and cesium carbonate (3.4 g, 10 mmol). The mixture was heated at 100° C. overnight. The reaction was then allowed to cool to room temperature and poured onto crushed ice. The resulting solid that formed was suspended in hot methanol to give a yellow solid (2.3 g). The filtrate was concentrated and purified by flash chromatography using a gradient of 3 to 10% methanol in dichloromethane to obtain an additional 0.9 g of the desired product. Total yield=3.2 g. MS (M+H)+ 394.

reactant | 2-(2-Bromothiophene-5-carbonyl)-3-(dimethylamino)acrylonitrile | BrC=1SC(=CC1)C(=O)C(C#N)=CN(C)C | C10H9BrN2OS
reactant | 1-(2-(2-oxoimidazolidin-1-yl)ethyl)guanidine hydrochloride | 15 mmol, 1 M, 15 mL | Cl.O=C1N(CCN1)CCNC(=N)N
reactant | cesium carbonate | 10 mmol, 3.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N-methyl pyrrolidone | 15 mL | CN1C(CCC1)=O | C5H9NO
solvent | methanol | CO | CH4O
product | 4-(5-Bromothiophen-2-yl)-2-(2-(2-oxoimidazolidin-1-yl)ethylamino)pyrimidine-5-carbonitrile | 2.3 g | BrC1=CC=C(S1)C1=NC(=NC=C1C#N)NCCN1C(NCC1)=O | C14H13BrN6OS
